US08242116B2
2-Chloro-6[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]pyridine
To a stirred solution of 2-chloro-6-hydroxypyridine (0.58 g, 4.50 mmol) and 2,2-dimethyl-1,3-dioxolan-4-ylmethyl p-toluenesulfonate (1.29 g, 4.50 mmol) in DMF (10 mL) was added cesium carbonate (2.97 g, 9.00 mmol). The reaction mixture was stirred at 85° C. for 18 h, and then partitioned between EtOAc (50 mL) and water (50 mL). The organic fraction was separated, washed with water (2×50 mL), then brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (1.03 g, 94%) as an off-white solid that was used without further purification. δH (DMSO-d6) 7.78 (1H, dd, J 8.1 and 7.5 Hz), 7.11 (1H, dd, J 7.5 and 0.6 Hz), 6.86 (1H, dd, J 8.1 and 0.6 Hz), 4.45-4.35 (1H, m), 4.33-4.18 (2H, m), 4.11-4.01 (1H, m), 3.77 (1H, dd, J 8.5 and 6.2 Hz), 1.34 (3H, s), 1.29 (3H, s). LCMS (ES+) 244.1 (M+H)+, RT 3.63 minutes (Method 1).

reactant | 2-chloro-6-hydroxypyridine | 4.50 mmol, 0.58 g | ClC1=NC(=CC=C1)O | C5H4ClNO
reactant | 2,2-dimethyl-1,3-dioxolan-4-ylmethyl p-toluenesulfonate | 4.50 mmol, 1.29 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1OC(OC1)(C)C)C | C13H18O5S
reactant | cesium carbonate | 9.00 mmol, 2.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-6[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]pyridine | 1.03 g, 94% | ClC1=NC(=CC=C1)OCC1OC(OC1)(C)C | C11H14ClNO3
